### PR TITLE
[Merged by Bors] - chore: turn `LieSubmodule.disjoint_iff_toSubmodule` around

### PR DESCRIPTION
**Pull request by YaelDillies**
... mark it simp and make its arguments implicit. Same for its friends.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 1]
```diff
@@ -552,14 +552,25 @@ theorem iSup_induction' {ι} (N : ι → LieSubmodule R L M) {C : (x : M) → (x
...
 
+@[simp] lemma codisjoint_toSubmodule :
+    Codisjoint (N : Submodule R M) (N' : Submodule R M) ↔ Codisjoint N N' := by
+  rw [codisjoint_iff, codisjoint_iff, ← toSubmodule_inj, sup_toSubmodule,
+    top_toSubmodule, ← codisjoint_iff]
+
+@[deprecated codisjoint_toSubmodule (since := "2025-04-03")]
 theorem codisjoint_iff_toSubmodule :
     Codisjoint N N' ↔ Codisjoint (N : Submodule R M) (N' : Submodule R M) := by
   rw [codisjoint_iff, codisjoint_iff, ← toSubmodule_inj, sup_toSubmodule,
```
Comment (ADedecker) [inline Mathlib/Algebra/Lie/Submodule.lean:576]: Could you change this proof to be in terms of the new lemma?

File: Mathlib/Algebra/Lie/Submodule.lean [hunk 2]
```diff
@@ -605,6 +628,8 @@ instance : AddCommMonoid (LieSubmodule R L M) where
   add_comm := sup_comm
   nsmul := nsmulRec
 
+variable (N N')
```
Comment (ADedecker) [inline Mathlib/Algebra/Lie/Submodule.lean:631]: I don't understand why this is needed ? [LieSubmodule.add_eq_sup](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Lie/Submodule.html#LieSubmodule.add_eq_sup) already has `N` and `N'` explicit.

**Review by ADedecker — APPROVED** [review]
bors d+

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Lie/Submodule.lean:576]: I am happy to do this, but for the record I explicitly did not do it to avoid needless increasing the diff

**Comment by YaelDillies** [comment]
bors merge

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Algebra/Lie/Submodule.lean:543]: :facepalm:

File: Mathlib/Algebra/Lie/Submodule.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Algebra/Lie/Submodule.lean]: Well you did it for the other lemmas so... :shrug:

Comment (YaelDillies) [reply Mathlib/Algebra/Lie/Submodule.lean]: Oh yeah I did 🤦
